US09056865B2
Step 3: 3,6-dichloro-2,2′-bipyridine
The mixture of 3,6-dichloro-2-iodopyridine (21 g, 77% purity, 58.8 mmol), 2-(tributylstannyl)pyridine (37 g, 80% purity, 80 mmol) in toluene (300 mL) was degassed, then Pd(PPh3)4 (730 mg) was added, the mixture was degassed again and stirred at reflux under N2 overnight. The mixture was concentrated and the residue was purified via silica gel column (petroleum ether:EtOAc=10:1˜5:1) to give title compound (10 g, 76%) as a gray solid.

reactant | 3,6-dichloro-2-iodopyridine | 58.8 mmol, 21 g | ClC=1C(=NC(=CC1)Cl)I | C5H2Cl2IN
reactant | 2-(tributylstannyl)pyridine | 80 mmol, 37 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3,6-dichloro-2,2′-bipyridine | 10 g, 76% | ClC=1C(=NC(=CC1)Cl)C1=NC=CC=C1 | C10H6Cl2N2
